* Z:\mnt\design.r\spice\examples\1803.asc
V1 +V 0 5
V2 -V 0 -5
R1 OUT N002 10K
R2 N002 IN 1K
R3 N005 N006 100K
R4 N006 OUT 10K
D1 N004 N005 1N4148
D2 N004 N003 1N4148
R5 +V N004 2K
R6 N003 -V 1Meg
C1 N003 0 .1µ
V3 IN N001 PULSE(0 50m 10u 1u 1u 88u 100u) Rser=10
V4 N001 0 PWL(0 0 1m .1)
C2 IN 0 .1µ
XU1 N003 N002 OUT +V -V LT1803
XU2 0 N006 N005 +V -V LT1803
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m
.options gminsteps=0 srcsteps=0
* Inverting DC Restore
.lib LTC2.LIB
.backanno
.end
